US06610456B2
Preparation of t-Butyl 2-(trifluoromethyl)acrylate (TBTFMA)
Oxalyl chloride (87.3 g, 0.68 mol) was added to a solution of 2-(trifluoromethyl)acrylic acid (TFMAA) (15.0 g, 0.11 mol) in methylene chloride (90 mL) in a dropwise manner at room temperature under an nitrogen atmosphere. The solution was heated to reflux for 5 hours, and the solvent and excess reagent were removed on a rotary evaporator. The resulting acid chloride was added to a stirred solution consisting of t-butanol (44 g, 0.59 mmol) and pyridine (33.6 g, 0.42 mol) in methylene chloride at 0° C. over a 10 min period. After stirring overnight at room temperature, the solution was neutralized with diluted aqueous HCl and washed with saturated aqueous sodium bicarbonate. The organic phase was removed, and the aqueous phase was extracted with pentane. The combined organic solvents were reduced to a small volume by distillation and then the residue was chromatographed on a column of silica gel. The product was re-purified by distillation to give 14.0 g of TBTFMA as a colorless liquid (70%).

reactant | Oxalyl chloride | 0.68 mol, 87.3 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-(trifluoromethyl)acrylic acid | 0.11 mol, 15.0 g | FC(C(C(=O)O)=C)(F)F | C4H3F3O2
reactant | t-butanol | 0.59 mmol, 44 g | C(C)(C)(C)O | C4H10O
reactant | pyridine | 0.42 mol, 33.6 g | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
solvent | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
product | t-Butyl 2-(trifluoromethyl)acrylate | 70% | FC(C(C(=O)OC(C)(C)C)=C)(F)F | C8H11F3O2
